US04831151
293 mg (1 mmol) of 3-amino-1-[[p-(dimethylamino)-benzylidene]amino]-2-ethylimidazolium chloride are dissolved in 40 ml of ethanol, whereupon the solution is hydrogenated at room temperature over 50 mg of palladium (5 percent on carbon). After crystallization from ethanol/ether there is obtained 3-amino-1-[[p-(dimethylamino)benzyl]amino]-2-ethylimidazolium chloride of melting point 153°-154°.

reactant | 3-amino-1-[[p-(dimethylamino)-benzylidene]amino]-2-ethylimidazolium chloride | 1 mmol, 293 mg | [Cl-].NN1C(=[N+](C=C1)N=CC1=CC=C(C=C1)N(C)C)CC
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium | 50 mg | [Pd] | Pd
product | 3-amino-1-[[p-(dimethylamino)benzyl]amino]-2-ethylimidazolium chloride | [Cl-].NN1C(=[N+](C=C1)NCC1=CC=C(C=C1)N(C)C)CC | InChI=1S/C14H22N5.ClH/c1-4-14-18(15)9-10-19(14)16-11-12-5-7-13(8-6-12)17(2)3;/h5-10,16H,4,11,15H2,1-3H3;1H/q+1;/p-1
